US04840963
Step A: Preparation of 5,6-Methylenedioxy-1-benzenesulfonylindole
To a solution of 5,6-methylenedioxyindole (11.5 gm, 71 mmol) in freshly distilled tetrahydrofuran (60 ml) under a nitrogen atomosphere at -70° C. was added dropwise 1.6M n-butyllithium (50 ml, 80 mmol) over a one-half hour period. Then benzenesulfonyl chloride (10.5 ml, 82 mmol) was added dropwise. The reaction mixture was gradually warmed to room temperature and poured into water/methylene chloride The methlene chloride layer was separated, dried (anhydrous Na2So4), filtered and evaporated to give 23.4 gm of crude product. This solid was triturated with diethyl ether and the purified product collected by filtration (18.0 gm), mp 142°-145° C.

reactant | 5,6-methylenedioxyindole | 71 mmol, 11.5 gm | C1OC=2C=C3C=CNC3=CC2O1 | C9H7NO2
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | 80 mmol, 1.6M, 50 ml | C(CCC)[Li]
reactant | benzenesulfonyl chloride | 82 mmol, 10.5 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methlene chloride | C(Cl)Cl | CH2Cl2
solvent | water methylene chloride | O.C(Cl)Cl
product | 5,6-Methylenedioxy-1-benzenesulfonylindole | 23.4 gm | C1OC=2C=C3C=CN(C3=CC2O1)S(=O)(=O)C1=CC=CC=C1 | C15H11NO4S
